Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])=[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.5089514067
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])[H:13],4.2762055956800005
[H:2].[O:1]>>[O:1][H:2],-3.35681653111
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.719769614489
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:1],5.80563608844
[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.391062271580002
[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],2.067270158
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],2.7287564509
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-1.63455116521
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],3.9332016762
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([O:3][C:4][H:5])[C:10]([H:11])([H:12])[H:13],4.12439261348
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16],1.9724634598
[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:1]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-3.54618800046
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-5.22403872034
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.5487608965300006
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.278722574430001
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6][H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11],7.96127465268
[H:1][O:2][C:3]([H:4])[C:6](=[O:5])[H:7]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]1[H:7],1.47663903944
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8],3.6410247122
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.514680365159999
[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])[H:10]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-2.91576742005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14],1.7507419790799998
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3][H:4])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.236824608961
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.72095877003
[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:4][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.579580817010001
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](\[O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.82670185626
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.98630291803
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],5.180704664019999
[C:1]#[C:2][C:3]([H:4])([C:5]#[C:6])[O:8][H:9].[H:7]>>[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],-5.98293245311
